US05541186
By brominating 4,6-dichloro-5-(3-methoxyphenoxy)-pyrimidine with N-bromosuccinimide in acetic acid/acetic anhydride at 100° C. there was obtained 4,6-dichloro-5-(2-bromo-5-methoxyphenoxy)pyrimidine; therefrom with p-tert-benzenesulfonamide K there was obtained N-[5-(2-bromo-5-methoxyphenoxy)-6-chloropyrimidin-4-yl]-4-tert-butyl -benzenesulfonamide and therefrom with Na ethylene glycolate there was obtained p-tert-butyl-N-[5-(2-bromo-5-methoxyphenoxy)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-benzenesulfonamide.

reactant | 4,6-dichloro-5-(3-methoxyphenoxy)-pyrimidine | ClC1=NC=NC(=C1OC1=CC(=CC=C1)OC)Cl | C11H8Cl2N2O2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid acetic anhydride | C(C)(=O)O.C(C)(=O)OC(C)=O
product | 4,6-dichloro-5-(2-bromo-5-methoxyphenoxy)pyrimidine | ClC1=NC=NC(=C1OC1=C(C=CC(=C1)OC)Br)Cl | C11H7BrCl2N2O2
